US03950528
3-Amino-1-(3-chloro-4-trifluoromethylbenzyl)-pyrazol-5-one ##SPC48##
33 g of 3-chloro-4-trifluoromethylbenzylhydrazine were added dropwise, under nitrogen, to a solution of 23.5 g of β-amino-β-ethoxyacrylic acid ethyl ester and a pinch of p-toluenesulphonic acid in 100 ml of ethanol. After stirring overnight, the product which had precipitated was filtered off and recrystallised from ethanol. Melting point: 83°, 24 g (56%).

reactant | 3-chloro-4-trifluoromethylbenzylhydrazine | 33 g | ClC=1C=C(CNN)C=CC1C(F)(F)F | C8H8ClF3N2
reactant | β-amino-β-ethoxyacrylic acid ethyl ester | 23.5 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-Amino-1-(3-chloro-4-trifluoromethylbenzyl)-pyrazol-5-one | NC=1NN(C(C1)=O)CC1=CC(=C(C=C1)C(F)(F)F)Cl | C11H9ClF3N3O
